US06506747B1
To a solution of (COCl)2 (7.9 mL, 91.0 mmol) in CH2Cl2 (300 mL) was added DMSO (11.0 mL, 151 mmol) at −78° C., followed by 1-(3-pyridinyl)-1-pentyn-3-ol (12.2 g, 75.6 mmol) in CH2Cl2 (100 mL). The mixture was stirred at −78° C. for 1 hr, and then quenched with triethylamine (32 mL, 227 mmol). After being warmed to 0° C., the mixture was diluted with water and the layers were separated. The organic phase was dried over MgSO4 and concentrated to give 1(3-pyridinyl)-1-pentyn-3-one (12.2 g, 99%) as an oil. 1H NMR (CDCl3, 400 MHz) 8.81 (bs, 1H), 8.68 (bs, 1H), 7.87 (m, 1H), 7.32 (m, 1H), 2.73 (q, J=7.4Hz, 2H), 1.24 (t, J=7.4 Hz, 3H).

reactant | (COCl)2 | 91.0 mmol, 7.9 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | DMSO | 151 mmol, 11.0 mL | CS(=O)C | C2H6OS
reactant | 1-(3-pyridinyl)-1-pentyn-3-ol | 75.6 mmol, 12.2 g | N1=CC(=CC=C1)C#CC(CC)O | C10H11NO
reactant | triethylamine | 227 mmol, 32 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1(3-pyridinyl)-1-pentyn-3-one | 12.2 g, 99% | N1=CC(=CC=C1)C#CC(CC)=O | C10H9NO
